US08076359B2
(3R,4S)-N-Cyclopropyl-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]phenyl}-N-{3-(3-methoxypropyl)-5-[2-(2,2,2-trifluoroethoxy)ethoxy]benzyl}piperidine-3-carboxamide
To a solution of tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]-amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate (1 eq.) from Example 1/Step 2 in DMF (0.1 M) was added 2-(2,2,2-trifluoroethoxy)ethyl 4-methylbenzenesulfonate (3 eq.) from the previous step, cesium carbonate (2 eq.), and sodium iodide (5 mol %). The reaction was heated to 100° C. and stirred for 2.5 h. After cooling to rt, the reaction was diluted with ether. The organic extract was washed with water, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 40% EtOAc in Hex) to afford the title compound as an oil.

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]-amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)O | C40H50Cl2N2O7
reactant | 2-(2,2,2-trifluoroethoxy)ethyl 4-methylbenzenesulfonate | 3 eq. | CC1=CC=C(C=C1)S(=O)(=O)OCCOCC(F)(F)F | C11H13F3O4S
reactant | cesium carbonate | 2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | 0.1 M | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | (3R,4S)-N-Cyclopropyl-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]phenyl}-N-{3-(3-methoxypropyl)-5-[2-(2,2,2-trifluoroethoxy)ethoxy]benzyl}piperidine-3-carboxamide | C1(CC1)N(C(=O)[C@H]1CNCC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)CC1=CC(=CC(=C1)OCCOCC(F)(F)F)CCCOC | C39H47Cl2F3N2O6
